US04785010
1-(Methoxycarbonyl-methyl)-2-(phthalimido-methyl)-5-phenylpyrrole
9.6 g (0.03 mol) of 5-phthalimido-1-phenyl-1,4-pentanedione, 5.0 g (0.04 mol) of glycine methyl ester hydrochloride and 3.2 g (0.04 mol) of anhydrous sodium acetate are stirred in 80 ml of propionic acid at 60° C. for 20 hours. Purification is by column chromatography. Solid phase: "Silica-Woelm", particle size 0.1 to 0.2 mm; manufacturer: Messrs. Woelm, Eschwege, Germany; mobile phase: methylene chloride.

reactant | 5-phthalimido-1-phenyl-1,4-pentanedione | 0.03 mol, 9.6 g | C1(C=2C(C(N1CC(CCC(=O)C1=CC=CC=C1)=O)=O)=CC=CC2)=O | C19H15NO4
reactant | glycine methyl ester hydrochloride | 0.04 mol, 5.0 g | Cl.COC(CN)=O
reactant | sodium acetate | 0.04 mol, 3.2 g | C(C)(=O)[O-].[Na+]
solvent | propionic acid | 80 ml | C(CC)(=O)O | C3H6O2
product | 1-(Methoxycarbonyl-methyl)-2-(phthalimido-methyl)-5-phenylpyrrole | COC(=O)CN1C(=CC=C1C1=CC=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C22H18N2O4
